data/mechanisms/records/IMS8-EQ8.33.json
{"mechanism_id": "IMS8-EQ8.33", "species": [{"species_id": "distonic_hexyl_radical_cation", "mapped_smiles": "[CH2:1][CH2:2][CH2:3][CH2:4][CH2:5][CH2+:6]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_butyl_radical_cation", "mapped_smiles": "[CH2:1][CH2:2][CH2:3][CH2+:4]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethylene", "mapped_smiles": "[CH2:5]=[CH2:6]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["distonic_hexyl_radical_cation"]}, {"state_id": "state_products", "species_ids": ["distonic_butyl_radical_cation", "ethylene"]}], "steps": [{"step_id": "step_inductive_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_cleavage", "support_type": "textbook_proposed", "locator": {"page": 162, "equation": "8.33", "figure": null, "panel": null, "section": "Limitation of the concept of radical/charge-site initiation"}, "confidence": 0.85, "curator_note": "Equation 8.33 draws the full cyclohexane decomposition as a charge-site pathway: neutral cyclohexane --(-e-)--> cyclohexane radical cation (drawn as an intact ring bearing '+.') --(sigma)--> ring-opened 1,6-distonic hexyl radical cation (ring drawn open on the right side, radical '.' on one terminus and '+' on the other) --(i)--> product. Only the ENCODED step (the 'i', inductive/charge-site cleavage) carries a drawn electron arc. The ionization and the sigma ring-opening are NOT encoded because the intact C6H12 molecular ion cannot be given a localized RDKit-parseable SMILES (a closed ring with all 12 H is neutral closed-shell; its '+.' is a delocalized 2-centre-1-electron sigma hole), so the mechanism is encoded starting from the ring-opened distonic hexyl radical cation that the '+.'/'.' arc actually acts on; that species is an isomer of the cyclohexane M+. (both C6H12, m/z 84). Book draws 1 arc (a double-barbed, 2-electron curved arrow whose tail sits on the C4-C5 sigma bond and whose head points at the C5-C6 bond); move <1> is exactly that drawn arrow. No implicit homolysis hook is needed: the charge-site inductive cleavage is a single 2-electron heterolytic process (C4-C5 bonding pair shifts to form the C5=C6 pi bond of ethylene, charge migrates C6->C4). The page prints no m/z or intensity for THIS (cyclohexane) scheme; the adjacent text mentions a 'substantial peak at m/z 56' but attributes it to the spectrum of 2-methyl[pentane], not to the drawn cyclohexane scheme."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 84.0934, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_56", "species_id": "distonic_butyl_radical_cation", "step_id": "step_inductive_cleavage", "observed_mz": 56.0621, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
